US04780466
8-[3-[4-(3-Chlorophenyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7,9-dione hydrochloride hemihydrate
A solution of 8-(3-bromopropyloxy)-8-azaspiro[4.5]decan-7,9-dione (4.0 g) and 1-(3-chlorophenyl)piperazine hydrochloride (3.06 g) in 50 ml of Et3N was heated to reflux with stirring under N2. After 1 hour TLC (thin layer chromatography) showed the absence of starting material. The excess Et3N was removed in vacuo and the residue chromatographed on silica using ethyl acetate as the eluent. Fractions containing the desired product were combined and concentrated in vacuo.

reactant | 8-(3-bromopropyloxy)-8-azaspiro[4.5]decan-7,9-dione | 4.0 g | BrCCCON1C(CC2(CCCC2)CC1=O)=O | C12H18BrNO3
reactant | 1-(3-chlorophenyl)piperazine hydrochloride | 3.06 g | Cl.ClC=1C=C(C=CC1)N1CCNCC1
solvent | Et3N | 50 ml | CCN(CC)CC | C6H15N
product | 8-[3-[4-(3-Chlorophenyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7,9-dione hydrochloride hemihydrate | O.Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCON1C(CC2(CCCC2)CC1=O)=O.ClC=1C=C(C=CC1)N1CCN(CC1)CCCON1C(CC2(CCCC2)CC1=O)=O.Cl | InChI=1S/2C22H30ClN3O3.2ClH.H2O/c2*23-18-5-3-6-19(15-18)25-12-10-24(11-13-25)9-4-14-29-26-20(27)16-22(17-21(26)28)7-1-2-8-22;;;/h2*3,5-6,15H,1-2,4,7-14,16-17H2;2*1H;1H2
